US06235731B1
2) Synthesis of N-[4-(4-phenylpiperidin-1-ylmethyl)-benzyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride
To a solution of 1.59 g (3.31 mM) of N-[4-(4-phenylpiperidin-1-ylmethyl)benzyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide in ethanol was added 1 ml (12 mM) of 12N-hydrochloric acid at room temperature, and the mixture was stirred for several minutes. This reaction mixture was concentrated and, after addition of ethanol and diethyl ether, the crystal crop was harvested by filtration and rinsed with ethanol and diethyl ether to provide the title compound as orange-colored crystals.

reactant | N-[4-(4-phenylpiperidin-1-ylmethyl)benzyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 3.31 mM, 1.59 g | C1(=CC=CC=C1)C1CCN(CC1)CC1=CC=C(CNC(=O)C2=CC3=CN=C4C=CC=C(S2)N43)C=C1 | C29H28N4OS
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | N-[4-(4-phenylpiperidin-1-ylmethyl)-benzyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride | Cl.Cl.C1(=CC=CC=C1)C1CCN(CC1)CC1=CC=C(CNC(=O)C2=CC3=CN=C4C=CC=C(S2)N43)C=C1 | InChI=1S/C29H28N4OS.2ClH/c34-29(26-17-25-19-30-27-7-4-8-28(35-26)33(25)27)31-18-21-9-11-22(12-10-21)20-32-15-13-24(14-16-32)23-5-2-1-3-6-23;;/h1-12,17,19,24H,13-16,18,20H2,(H,31,34);2*1H
